US07183293B2
(R)-2-(Benzo[1,3]dioxol-5-yloxy)-N-[4-(1-carbamoyl-ethoxy)-2-fluoro-benzyl]-nicotinamide of Formula (5.5.14)
To a stirred solution of (R)-2-[4-({[2-(benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-propionic acid (0.25 g, 0.55 mmol) in ethylene glycol dimethyl ether (20 mL) at −10° C. was added N-methyl morpholine (0.06 mL, 0.55 mmol) followed by dropwise addition of isobutyl chloroformate (0.071 mL, 0.55 mmol). The turbid solution was stirred at −10° C. 10 min. Ammonia gas was bubbled through the reaction mixture 10 min, which was then warmed to room temperature and stirred a further 15 min. The reaction mixture was partitioned between chloroform and water. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford a white solid. Flash column chromatography (1% methanol/dichloromethane) yielded 0.15 g of a white solid (60% yield).

reactant | (R)-2-[4-({[2-(benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-propionic acid | 0.55 mmol, 0.25 g | O1COC2=C1C=CC(=C2)OC2=NC=CC=C2C(=O)NCC2=C(C=C(O[C@@H](C(=O)O)C)C=C2)F | C23H19FN2O7
reactant | N-methyl morpholine | 0.55 mmol, 0.06 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.55 mmol, 0.071 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | methanol dichloromethane | CO.ClCCl
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
product | (R)-2-(Benzo[1,3]dioxol-5-yloxy)-N-[4-(1-carbamoyl-ethoxy)-2-fluoro-benzyl]-nicotinamide | 0.15 g, 60% yield | O1COC2=C1C=CC(=C2)OC2=C(C(=O)NCC1=C(C=C(C=C1)O[C@H](C)C(N)=O)F)C=CC=N2 | C23H20FN3O6
